US05106871
To 40 ml of an ethyl acetate solution of 0.7 g of 5% palladium/carbon, in which hydrogen had been adsorbed in advance, was added 160 ml of an ethyl acetate solution of 5.0 g of the so-obtained 2'-hydroxy-4,4',6'-trimethoxy-3-methoxymethoxy-3'-(3-methyl-2-butenyl)chalcone, and hydrogen was further adsorbed with strong stirring. Then the mixture was stirred overnight, and the palladium/carbon was removed by using Celite and the solvent was removed by distillation. The residue was dissolved in diethyl ether and crystallized by addition of hexane to obtain 4.4 g (yield=91%) of 1-(2-hydroxy-4,6-dimethoxy-3-isopentylphenyl)-3-(4-methoxy-3-methoxymethoxyphenyl)-1-propanone in the form of a white solid.

reactant | hydrogen | [H][H] | H2
reactant | 2'-hydroxy-4,4',6'-trimethoxy-3-methoxymethoxy-3'-(3-methyl-2-butenyl)chalcone | 5.0 g | OC1=C(C(C=CC2=CC(=C(C=C2)OC)OCOC)=O)C(=CC(=C1CC=C(C)C)OC)OC | C25H30O7
catalyst | palladium/carbon | 0.7 g | [Pd] | Pd
solvent | ethyl acetate | 160 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-hydroxy-4,6-dimethoxy-3-isopentylphenyl)-3-(4-methoxy-3-methoxymethoxyphenyl)-1-propanone | 4.4 g, yield=91% | OC1=C(C(=CC(=C1CCC(C)C)OC)OC)C(CCC1=CC(=C(C=C1)OC)OCOC)=O | C25H34O7
